US08309563B2
O-(4-chloroquinazolin-6-yl) acetate
In a 100 mL flask equipped with a reflux condenser, 6-acetoxyquinazolone 3.06 g (15 mmol), phosphoryl chloride (35 mL) were added. The mixture was refluxed at 105° C. for 2 h, and then was taken out and poured into 150 mL of ice water carefully. A large amount of solid was deposited slowly, which was filtered, dried, and identified as the title compound. Yield: 74%.

reactant | 6-acetoxyquinazolone | 15 mmol, 3.06 g | C(C)(=O)OC=1C=C2C=NC(NC2=CC1)=O | C10H8N2O3
reactant | phosphoryl chloride | 35 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | O-(4-chloroquinazolin-6-yl) acetate | Yield: 74% | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)Cl | C10H7ClN2O2
